US08603975B2
To a solution of 1-tert-butyl 4-ethyl 4-(methoxymethyl)piperidine-1,4-dicarboxylate (2.05 g) in toluene (21 ml) was added 0.99 M solution of diisobutyl aluminum hydride in toluene (16.5 ml) under at 0° C. It was stirred at room temperature for 2 hours. Water was added and extracted with EtOAc. The organic phase was washed with water and brine, dried over MgSO4, evaporated off. The residue was purified by silica gel column to give tert-butyl 4-(hydroxymethyl)-4-(methoxymethyl)piperidine-1-carboxylate (0.95 g) as oil.

reactant | 1-tert-butyl 4-ethyl 4-(methoxymethyl)piperidine-1,4-dicarboxylate | 2.05 g | COCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C15H27NO5
reactant | diisobutyl aluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Water | O | H2O
solvent | toluene | 21 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 16.5 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 4-(hydroxymethyl)-4-(methoxymethyl)piperidine-1-carboxylate | 0.95 g | OCC1(CCN(CC1)C(=O)OC(C)(C)C)COC | C13H25NO4
